US06780996B2
A mixture of 7-fluoro-6-methoxy-4-oxo-1,4-dihydro-3-quinolinecarboxylic acid (1.0 g, 4.21 mmol) and N,N′-carbonyldiimidazole (1.51 g, 9.28 mmol) in 14 mL of N,N-dimethylformamide is heated at 65° C. for 2 hours then cooled to room temperature and poured into 200 mL of aqueous ammonium hydroxide in an ice water bath. The solution is allowed to stir at room temperature overnight and then concentrated to a small volume. Ice cold water is added followed by acidification with acetic acid. The resultant solid is collected by filtration washing with water to provide 821 mg of 7-fluoro-6-methoxy-4-oxo-1,4-dihydro-3-quinolinecarboxamide as a white solid, mp>300° C.

reactant | 7-fluoro-6-methoxy-4-oxo-1,4-dihydro-3-quinolinecarboxylic acid | 4.21 mmol, 1.0 g | FC1=C(C=C2C(C(=CNC2=C1)C(=O)O)=O)OC | C11H8FNO4
reactant | ammonium hydroxide | 200 mL | [OH-].[NH4+]
solvent | N,N-dimethylformamide | 14 mL | CN(C=O)C | C3H7NO
product | 7-fluoro-6-methoxy-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 821 mg | FC1=C(C=C2C(C(=CNC2=C1)C(=O)N)=O)OC | C11H9FN2O3
